US04385058
Ammonium persulphate (102.7 g) in water (200 ml) was added over 40 minutes to a refluxing solution of 4-dimethylaminomethylpyridine (40.86 g), methanol (450 ml), water (210 ml) and concentrated sulphuric acid (30 ml). The resulting solution was refluxed for 2 hours, water (300 ml) was added and the methanol was distilled off. The cooled solution was basified and extracted with chloroform to give 4-dimethylaminomethyl-2-hydroxymethylpyridine (19.65 g) b.p. 92°-120°/0.06 mm Hg.

reactant | Ammonium persulphate | 102.7 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
reactant | 4-dimethylaminomethylpyridine | 40.86 g | CN(C)CC1=CC=NC=C1 | C8H12N2
reactant | methanol | 450 ml | CO | CH4O
reactant | sulphuric acid | 30 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | 200 ml | O | H2O
solvent | water | 300 ml | O | H2O
solvent | water | 210 ml | O | H2O
product | 4-dimethylaminomethyl-2-hydroxymethylpyridine | 19.65 g | CN(C)CC1=CC(=NC=C1)CO | C9H14N2O
